US05643878
c) 5(S)-(Boc-amino)-4(S)-(tert-butyldimethylsilyloxy)-6-(p-benzyloxyphenyl)-2(R)-(p-benzyloxyphenylmethyl)-hexanoic acid
Analogously to Example 1j), 2.44 g (3.90 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-benzyloxyphenyl)-2(R)-(p-benzyloxyphenylmethyl)-hexanoic acid in 14 ml of DMF are silylated with 2.70 g (17.6 mmol) of tert-butyldimethylchlorosilane and 2.18 g (32 mmol) of imidazole. Hydrolysis of the silyl ester function with 3.2 g of potassium carbonate in 90 ml of methanol/THF/water 3:1:1 and column chromatography (SiO2, hexane/ethyl acetate 2:1→1:1) of the crude product yields the title compound: TLC Rf (A)=0.53; FAB-MS (M+H)+ =740.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-benzyloxyphenyl)-2(R)-(p-benzyloxyphenylmethyl)-hexanoic acid | 3.90 mmol, 2.44 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C38H43NO7
reactant | tert-butyldimethylchlorosilane | 17.6 mmol, 2.70 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 32 mmol, 2.18 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 3.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 14 ml | CN(C)C=O | C3H7NO
solvent | methanol THF water | 90 ml | CO.C1CCOC1.O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5(S)-(Boc-amino)-4(S)-(tert-butyldimethylsilyloxy)-6-(p-benzyloxyphenyl)-2(R)-(p-benzyloxyphenylmethyl)-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C44H57NO7Si
